US08242145B2
Step 2: [3-(4-Bromo-2-formyl-phenoxy)-phenyl]-acetic acid methyl ester
To [3-(4-bromo-2-formyl-phenoxy)-phenyl]-acetic acid (1 g, 3.0 mmol) in MeOH (10 mL) was added thionyl chloride (0.43 mL, 6.0 mmol), and the reaction was heated to 65° C. for 2 hours, and then at room temperature overnight. The mixture was quenched with 1N aqueous NaOH and extracted three times with EtOAc, and the combined organic layers were washed with H2O, dried, and concentrated. The residue was purified by silica gel chromatography (20-40% EtOAc in hexanes) to give the desired product (0.7 g); as well as the acetal by-product.

reactant | [3-(4-bromo-2-formyl-phenoxy)-phenyl]-acetic acid | 3.0 mmol, 1 g | BrC1=CC(=C(OC=2C=C(C=CC2)CC(=O)O)C=C1)C=O | C15H11BrO4
reactant | thionyl chloride | 6.0 mmol, 0.43 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 10 mL | CO | CH4O
product | [3-(4-Bromo-2-formyl-phenoxy)-phenyl]-acetic acid methyl ester | 0.7 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)C=O)=O | C16H13BrO4
